US07851640B2
tert-butyl 3-(2-hydroxyphenyl)-3-oxopropanoate (18):
To a N2 purged 250 mL RBF is added 30 mL of THF and diisopropylamine (12.0 mL, 86 mmol). The solution is cooled to −78° C. and nBuLi (50 mL, 1.6 M) is added and the solution is warmed to 0° C. for 45 min. The solution is cooled to −78° C. and t-butyl acetate (7.1 mL, 53 mmol) in 12 mL THF is added dropwise over 10 minutes. After 90 min., ethyl salicylate (2.2 mL, 15 mmol) in 15 mL of THF is added. The solution is allowed to warm to RT overnight and quenched with 90 mL of aq. NH4Cl (sat.), extracted with EtOAc (2×25 mL), washed brine (40 mL), dried Na2SO4, filtered, concentrated in vacuo. Purified via column chromatography (silica gel, 10% EtOAc/hex) to give 2.65 g of pale yellow oil (75% yield). IR (film) 2980.2; 2934.9; 1733.6; 1643.7; 1146.6; 757.0 cm−1; 1H NMR (500 MHz, CDCl3) δ 11.93 (s, 1H); 7.68 (d, J=7.9 Hz, 1H); 7.51 (t, J=7.3, 1H); 7.01 (d, J=8.2 Hz, 1H); 6.93 (t, J=7.3 Hz, 1H); 3.93 (s, 2H); 1.47 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 198.7, 165.8, 162.3, 136.6, 130.3, 118.8, 118.7, 118.3, 82.1, 46.9, 27.6; LRMS (electrospray): Mass calculated for C13H16O4, [M]+, 236.10. Found, [M+23]+259.5.

reactant | diisopropylamine | 86 mmol, 12.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 1.6 M, 50 mL | [Li]CCCC
reactant | t-butyl acetate | 53 mmol, 7.1 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | ethyl salicylate | 15 mmol, 2.2 mL | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(2-hydroxyphenyl)-3-oxopropanoate | 2.65 g, 75% yield | OC1=C(C=CC=C1)C(CC(=O)OC(C)(C)C)=O | C13H16O4
